US07273877B2
tert-Butyl (4-(2-fluoro-4-iodoanilino)-5-{[(3-hydroxypropyl)amino]carbonyl}-2-oxo-1(2H)-pyridinyl)acetate was dissolved in EtOH and treated with 1 M NaOH, as for example 1, step C, to hydrolyse the t-butyl ester to give (4-(2-fluoro-4-iodoanilino)-5-{[(3-hydroxypropyl)amino]carbonyl}2-oxo-1(2H)-pyridinyl)acetic acid as a white solid (86%), m.p. (EtOAc/MeOH) 199-202° C. 1H NMR [(CD3)2SO, 400 MHz] δ 10.12 (s, 1H), 8.39 (t, J=5.3 Hz, 1H), 8.22 (s, 1H), 7.74 (dd, J=10.2, 1.9 Hz, 1H), 7.57 (br d, J=8.4 Hz, 1H), 7.28 (t, J=8.5 Hz, 1H), 5.54 (s, 1H), 4.53-4.42 (m, 3H), 3.45 (t, J=6.3 Hz, 2 H—by D2O exchange), 3.24 (t, J=7.0 Hz, 2 H—by D2O exchange), 1.66 (pentet, J=6.6 Hz, 2H). HRMS (FAB+) calcd C17H18FIN3O5 (MH+) 490.0275, found 490.0279.

reactant | tert-Butyl (4-(2-fluoro-4-iodoanilino)-5-{[(3-hydroxypropyl)amino]carbonyl}-2-oxo-1(2H)-pyridinyl)acetate | FC1=C(NC2=CC(N(C=C2C(=O)NCCCO)CC(=O)OC(C)(C)C)=O)C=CC(=C1)I | C21H25FIN3O5
reactant | NaOH | 1 M | [OH-].[Na+]
reactant | EtOAc MeOH | CCOC(=O)C.CO
solvent | EtOH | CCO | C2H6O
product | (4-(2-fluoro-4-iodoanilino)-5-{[(3-hydroxypropyl)amino]carbonyl}2-oxo-1(2H)-pyridinyl)acetic acid | 86% | FC1=C(NC2=CC(N(C=C2C(=O)NCCCO)CC(=O)O)=O)C=CC(=C1)I | C17H17FIN3O5
